US05962438
Under a nitrogen atmosphere, dibenzyl malonate (1.71 g) was dissolved in isopropanol (10 ml) and sodium methoxide (27 mg) was suspended therein. A solution of tetraethyl ethenylidenebisphosphonate (1.51 g) in isopropanol (5 ml) was added dropwise thereto at room temperature and stirred for 2 hours. A saturated aqueous ammonium chloride solution (2.5 ml) and a saturated aqueous sodium chloride solution were added to the reaction mixture, followed by extraction (twice) with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the residue was purified by a silica gel column chromatography (chloroform:acetone=9:1 to 2:1) to obtain benzyl 4,4-bis(diethoxyphosphinoyl)-2-benzyloxycarbonylbutyrate (1.91 g, yield 65%).

reactant | dibenzyl malonate | 1.71 g | C(CC(=O)OCC1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C17H16O4
reactant | sodium methoxide | 27 mg | C[O-].[Na+]
reactant | tetraethyl ethenylidenebisphosphonate | 1.51 g | C(=C)(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C10H22O6P2
reactant | ammonium chloride | 2.5 ml | [Cl-].[NH4+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | benzyl 4,4-bis(diethoxyphosphinoyl)-2-benzyloxycarbonylbutyrate | 1.91 g, yield 65% | C(C)OP(=O)(C(CC(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)P(=O)(OCC)OCC)OCC | C27H38O10P2
